US04073797
10.4 g of 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,1,3,3-tetraoxide are treated with 5.11 g of N-methyl-homoveratrylamine, 30 ml of N-ethyl-N,N-diisopropylamine and 70 ml of dimethylformamide. The solution is heated at 120° C for 6 hours. After evaporation, the residue is worked-up in a manner analogous to that described in Example 5. There is obtained N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine-1,1,3,3-tetraoxide hydrochloride of melting point 167°-169° C.

reactant | 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,1,3,3-tetraoxide | 10.4 g | ClCCCC1(S(CCCS1(=O)=O)(=O)=O)C1=CC(=C(C=C1)OC)OC | C15H21ClO6S2
reactant | N-methyl-homoveratrylamine | 5.11 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
reactant | N-ethyl-N,N-diisopropylamine | 30 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine-1,1,3,3-tetraoxide hydrochloride | Cl.COC=1C=C(CCN(CCCC2(S(CCCS2(=O)=O)(=O)=O)C2=CC(=C(C=C2)OC)OC)C)C=CC1OC | InChI=1S/C26H37NO8S2.ClH/c1-27(15-12-20-8-10-22(32-2)24(18-20)34-4)14-6-13-26(36(28,29)16-7-17-37(26,30)31)21-9-11-23(33-3)25(19-21)35-5;/h8-11,18-19H,6-7,12-17H2,1-5H3;1H
